US09126993B2
quinuclidin-3-yl biphenyl-2-ylcarbamate
Using general procedure E, quinuclidin-3-yl2-bromophenylcarbamate (130 mg, 0.400 mmol), phenylboronic acid (96 mg, 0.8 mmol) and [PdCl2(pddf)]CH2Cl2 gave the title compound as a white solid (112 mg, 87%). 1H NMR (400 MHz, CDCl3) δ 8.07 (br s, 1H), 7.55-7.33 (m, 6H), 7.25-7.21 (dd, J=7.6 & 1.6 Hz, 1H), 7.43 (td, J=8.0, 1.2 Hz, 1H), 6.65 (br s, 1H), 4.78 (m, 1H), 3.24 (m, 1H), 2.90-2.68 (m, 5H), 2.04 (m, 1H), 1.80-1.62 (m, 2H), 1.61-1.50 (m, 1H), 1.41-1.30 (m, 1H) ppm. 13C NMR (100 MHz, CDCl3) δ 151.2, 135.9, 132.5, 129.5, 128.0, 127.0, 126.9, 126.2, 125.7, 121.4, 117.9, 69.9, 53.1, 45.1, 44.3, 23.1, 22.3, 17.2 ppm. Purity: 100% LCMS (214 nm & 254 nm); retention time 1.47 min; (M+1) 323.

reactant | quinuclidin-3-yl2-bromophenylcarbamate | 0.400 mmol, 130 mg | N12CC(C(CC1)CC2)OC(NC2=C(C=CC=C2)Br)=O | C14H17BrN2O2
reactant | phenylboronic acid | 0.8 mmol, 96 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | quinuclidin-3-yl biphenyl-2-ylcarbamate | 112 mg, 87% | C1(=C(C=CC=C1)NC(OC1CN2CCC1CC2)=O)C2=CC=CC=C2 | C20H22N2O2
